US05990102
b) (3S, 4R)-4-Benzylthio-3-bromoazetidin-2-one
Ozonised oxygen was bubbled through a solution of p-methoxybenzyl 2-[(3S, 4R)-4-benzylthio-3-bromo-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (2 g, 4 mmol) in dichloromethane (40 ml) at -78° C. and the reaction monitored by infra-red spectroscopy. When the band at 1780 cm-1 had disappeared, methanol (4 ml) together with a trace of sodium methoxide and dimethyl sulfide (1 ml) was added and stirring continued at room temperature for 16 h. The reaction was evaporated and the residue purified by flash chromatography using 1:1 ether:pentane as the eluting solvent. Evaporation of the appropriate fractions gave the product as a colourless oil (0.7 g, 64%). 1H NMR δ (CDCl3) 3.87 (2H, s, SCH2), 4.52 (1H, m, H4), 4.69 (1H, d, H3) 5.85 (1H, bs, NH), 7.18-7.39 (5H, m, Ph--H).

reactant | oxygen | O=O | O2
reactant | p-methoxybenzyl 2-[(3S, 4R)-4-benzylthio-3-bromo-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 4 mmol, 2 g | C(C1=CC=CC=C1)S[C@@H]1[C@H](C(N1C(C(=O)OCC1=CC=C(C=C1)OC)=C(C)C)=O)Br | C23H24BrNO4S
reactant | sodium methoxide | C[O-].[Na+]
reactant | dimethyl sulfide | 1 ml | CSC | C2H6S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | methanol | 4 ml | CO | CH4O
product | (3S, 4R)-4-Benzylthio-3-bromoazetidin-2-one | 0.7 g, 64% | C(C1=CC=CC=C1)S[C@@H]1[C@H](C(N1)=O)Br | C10H10BrNOS
